US05430041
A solution of 90 mg (0.26 mmol) of 2(S)-[3(S)-amino-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-1(R)-cyclohexanecarboxamide in 4 ml of dichloromethane was added to a mixture of 65 mg (0.26 mmol) of N-benzyloxycarbonyl-cyano-L-alanine, 35 mg (0.23 mmol) of hydroxybenzotriazole hydrate and 54 mg (0.26 mmol) of dicyclohexylcarbodiimide in 2 ml of dimethylformamide. The mixture was stirred under nitrogen at room temperature for 18 hours and then filtered. The filtrate was evaporated and the residue was partitioned between 25 ml of ethyl acetate and 10 ml of saturated aqueous sodium hydrogen carbonate solution. The organic layer was dried over anhydrous magnesium sulphate and evaporated. The crude product was chromatographed on a column of silica gel using 3% methanol in dichloromethane for the elution and the product was purified further by crystallization from a mixture of 1 ml of dichloromethane and 10 ml of hexane. There were obtained 68 mg of 2(S)-[3(S)-[[N-(benzyloxycarbonyl)-3-cyano-L-alanyl]amino] -2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-1(R)-cyclohexanecarboxamide as a white solid; MS m/e 577 [M+H]+.

reactant | 2(S)-[3(S)-amino-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-1(R)-cyclohexanecarboxamide | 0.26 mmol, 90 mg | N[C@H]([C@@H](C[C@H]1[C@@H](CCCC1)C(=O)NC(C)(C)C)O)CC1=CC=CC=C1 | C21H34N2O2
reactant | N-benzyloxycarbonyl-cyano-L-alanine | 0.26 mmol, 65 mg | C(C1=CC=CC=C1)OC(=O)N([C@@H](C)C(=O)O)C#N | C12H12N2O4
reactant | hydroxybenzotriazole hydrate | 0.23 mmol, 35 mg | O.OC1=CC=CC=2NN=NC21
reactant | dicyclohexylcarbodiimide | 0.26 mmol, 54 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 2(S)-[3(S)-[[N-(benzyloxycarbonyl)-3-cyano-L-alanyl]amino] -2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-1(R)-cyclohexanecarboxamide | 68 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC#N)C(=O)N[C@H]([C@@H](C[C@H]1[C@@H](CCCC1)C(=O)NC(C)(C)C)O)CC1=CC=CC=C1 | C33H44N4O5
